US07855215B2
Step 3.2: 6-Methylamino-4-(1,2,3,4-tetrahydro-quinolin-6-yloxy)-pyrimidine
In the presence of 1 g of PtO2 (Engelhard 7018), a solution of 2.63 g (10.4 mM) 6-methylamino-4-(quinolin-6-yloxy)-pyrimidine in 175 ml of THF/acetic acid 4:1 is hydrogenated. The catalyst is filtered off and the filtrate concentrated in vacuo. The residue is diluted with EtOAc and sat. Na2CO3 solution and extracted 3× with EtOAc. The organic phases are washed with water and brine, dried (Na2SO4) and partially concentrated in vacuo. The crystallized title compound can be filtered off and washed with EtOAc and DIPE: TLC(EtOAc): Rf=0.18; MS: [M+1]+=257. More product can be isolated from the filtrate by column chromatography (SiO2; EtOAc).

reactant | 6-methylamino-4-(quinolin-6-yloxy)-pyrimidine | 10.4 mM, 2.63 g | CNC1=CC(=NC=N1)OC=1C=C2C=CC=NC2=CC1 | C14H12N4O
solvent | THF acetic acid | 175 ml | C1CCOC1.C(C)(=O)O
catalyst | PtO2 | 1 g | O=[Pt]=O
product | 6-Methylamino-4-(1,2,3,4-tetrahydro-quinolin-6-yloxy)-pyrimidine | CNC1=CC(=NC=N1)OC=1C=C2CCCNC2=CC1 | C14H16N4O
